US20010041740A1
First, 4.6 g (17 mmol) of 2-chloro-1,3-dinitro-5-trifluoromethylbenzene and 4.0 g (18 mmol) of 3-bromo-2,2,3,3-tetrafluoropropionamide were dissolved in 40 ml of acetone, to which 5.0 g (36 mmol) of potassium carbonate was added, and the mixture was heated under reflux for 4 hours. Water was poured into the reaction mixture, which was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 3-bromo-N-(2,6-dinitro-4-trifluoromethylphenyl)-2,2,3, 3-tetrafluoropropionamide.

reactant | 2-chloro-1,3-dinitro-5-trifluoromethylbenzene | 17 mmol, 4.6 g | ClC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C7H2ClF3N2O4
reactant | 3-bromo-2,2,3,3-tetrafluoropropionamide | 18 mmol, 4.0 g | BrC(C(C(=O)N)(F)F)(F)F | C3H2BrF4NO
reactant | potassium carbonate | 36 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3-bromo-N-(2,6-dinitro-4-trifluoromethylphenyl)-2,2,3, 3-tetrafluoropropionamide | BrC(C(C(=O)NC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-])(F)F)(F)F | C10H3BrF7N3O5
